US09403768B2
TFA (2 mL, 26.0 mmol, Eq: 76.8) was added to a solution of tert-butyl (S)-1-((S)-2-(2,6-difluorophenylcarbamoyl)indolin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate (0.16 g, 338 μmol, Eq: 1.00) in DCM (2 mL) and the resulting solution was stirred at rt for 1 h. The reaction mixture was concentrated in vacuo and the residue was azeotroped with n-heptane (20 mL) to give a viscous oil (0.16 g) which was used directly without further purification. HATU (0.21 g, 552 μmol, Eq: 1.68) was added to a solution of (S)-1-((S)-2-amino-3-methylbutanoyl)-N-(2,6-difluorophenyl)indoline-2-carboxamide 2,2,2-trifluoroacetate (0.16 g, 328 μmol, Eq: 1.00), (S)-2-(tert-butoxycarbonyl(methyl)amino)propanoic acid (0.1 g, 492 μmol, Eq: 1.5) and diisopropylethylamine (0.29 mL, 1.66 mmol, Eq: 5.06) in DMF (2 mL) and the reaction was stirred at rt for 30 min. The reaction mixture was diluted with EtOAc (20 mL) and washed with 0.1 M aqueous NaOH (10 mL) and 0.1 M aqueous HCl (10 mL). Hexanes (20 mL) were added to the organic layer and it was washed with water (3×10 mL) and brine. The organic layer was concentrated in vacuo and the resulting crude material was purified by flash chromatography (silica gel, 12 g, 0% to 50% EtOAc in hexanes) to give tert-butyl (S)-1-((S)-1-((S)-2-(2,6-difluorophenylcarbamoyl)indolin-1-yl)-3-methyl-1-oxobutan-2-ylamino)-1-oxopropan-2-yl(methyl)carbamate (0.15 g), m/z=559 (M+H).

reactant | HATU | 552 μmol, 0.21 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)-1-((S)-2-amino-3-methylbutanoyl)-N-(2,6-difluorophenyl)indoline-2-carboxamide 2,2,2-trifluoroacetate | 328 μmol, 0.16 g | FC(C(=O)O)(F)F.N[C@H](C(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)NC1=C(C=CC=C1F)F)C(C)C
reactant | (S)-2-(tert-butoxycarbonyl(methyl)amino)propanoic acid | 492 μmol, 0.1 g | C(C)(C)(C)OC(=O)N([C@H](C(=O)O)C)C | C9H17NO4
reactant | diisopropylethylamine | 1.66 mmol, 0.29 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | tert-butyl (S)-1-((S)-1-((S)-2-(2,6-difluorophenylcarbamoyl)indolin-1-yl)-3-methyl-1-oxobutan-2-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 0.15 g | FC1=C(C(=CC=C1)F)NC(=O)[C@H]1N(C2=CC=CC=C2C1)C([C@H](C(C)C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O | C29H36F2N4O5
